Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness, CP, syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F w/ bulimia nervosa who presents with chief complaint of 
dizziness, chest pain and a syncopal episode ___ AM. She has 
been binging/purging for almost a year. The past few weeks have 
been particularly stressful as she prepares for a play at 
___. She is followed by campus health. Pt had been 
declining, binging/purging ___ times/day and performing worse at 
school. Seen on ___, appeared "terrible," so monitoring labs 
drawn. On ___ K+ returned 3.3. Per OMR "Collateral Note" from 
Dr. ___ doctor), ___, NP ___ 
from ___.. reports pt's binging and purging getting 
worse... reported dizziness lightheadness, and chest pain.... 
Had checked K [as per above], result came back [___]. didn't 
feel comfortable repleting her with po potassium because needs 
IV Didn't get a hold of her until 11 am, instructed her to come 
to ED." Dr. ___ comments regarding recent decline, 
"....Went to ___ for appointment two weeks ago, but put 
start date on hold due to her performances at school. From 
counselor's perspective she was recommending that she start 
sooner but patient declined....[Ms. ___ is being admitted to 
outpatient tx at ___ for bulimia on ___
In the ED, initial vitals were: T 98.6, HR 100, BP 98/60, RR 17, 
SaO2 100% RA, FSBS 65
Exam unremarkable
Labs notable for
- CBC: WNL
- BMP: normal except for K+ 2.7, Cl 95
- UA: Blood neg, Nitrite neg, Prot 300, Gluc neg, Ketone neg, 
Bilirubin neg, Urobilin 2, pH 7.0, Leuk est trace, WBC 7, 
Bacteria few, Epi 10, TransE < 1
- U-HCG: negative
- UCx: Pending
Imaging/Studies:
- EKG: HR 71, Sinus, Axis normal, PR 153, QTc 434/452, TWI in 
V1; no significant changes from office EKG on ___
Patient was given
- 2L NS
- K+ 40mEq IV x1, 80mEq PO x1
- Dextrose 50% 50g IV x1
Patient was seen by Psychiatry who recommended admission to 
Medicine.
Decision was made to admit for monitoring patient with medically 
unstable eating disorder, hypokalemia.
Vitals notable for hemodynamic stability, increase in BP to 
104/67
We called ___, NP from ___ and clarified the 
"force to eat" phrase in the note. Per our discussion, the 
patient is okay to have monitored meals and participate in the 
Eating Disorder protocol.
On the floor, the patient endorses the above history. She states 
she usually binges "more than a normal meal" and then 
self-induces vomiting. She also abuses OTC laxatives, last 2 
days prior to admission. She feels she was "extremely 
dehydrated" following laxative use, leading to syncope. Syncopal 
event occurred while getting dressed in the morning. She woke up 
on the floor. No witnesses. Did not seek medical attention. Has 
bruise on L mandible, no other traumatic injuries. Denies 
confusion, sleepiness, nausea, or change in mood since event. 
She tells me that she does not take medications from other 
people to lose weight. She tells me that she does not have any 
laxatives or diuretics in her possession. She denies SI or HI.
Review of systems: 12-point ROS positive per HPI, otherwise 
negative.

 
Past Medical History:
Bulimia Nervosa
REPRODUCTIVE HISTORY:
Menarche: ___ years old
LMP: "A month ago"
Frequency: q4 wks
Pregnancies: None
 
Social History:
___
Family History:
Father's side may have some depression, otherwise no known 
mental illness or eating disorders
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
VS: T 98.1 PO, BP 99/66 L Lying, HR 88, RR 16, SaO2 100% RA
Gen: Thin, but well appearing young female in no acute distress
HEENT: NCAT, EOMI, PERRL, OP without lesions, mild tenderness on 
L chin, no visible bruise
CV: Regular S1, S2, no m/r/g appreciated
Pulm: CTAB, no w/r/r
Abd: Soft, NT, ND, hypoactive BS
Ext: WWP, pulses equal, no c/c/e
Skin: No rashes
Neuro: CN II - XII intact, strength ___, sensation intact to 
light touch throughout
Psych: AOx3, somewhat guarded, more interactive without parents 
in room, frequently picking at fingernails, mood is tired, 
affect is somewhat flat.

DISCHARGE PHYSICAL EXAM:
========================
Vitals: Afebrile, BP 110s-170s/60s-70s, HR 74 -> 1038 
(orthostatic), RR 14, 98% RA, WEIGHT: 46 kg -> 46 kg, IBW: 56.8 
kg, %IBW: 78 % on admission, 80.9% today (same as ___, no 
events on tele
GENERAL: NAD, alert, interactive  
HEENT: NC/AT, sclerae anicteric, MMM, no visible ecchymosis, 
opens jaw without pain or clicking  
LUNGS: Clear to auscultation bilaterally, otherwise no w/r/r  
HEART: RRR, no m/r/g
ABDOMEN: NABS, soft/NT/ND.  
EXTREMITIES: WWP, no rash   
NEURO: Awake, A&Ox3  
PSYCH:A+Ox3, still somewhat guarded, but more interactive
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:40PM BLOOD WBC-4.8 RBC-4.48 Hgb-13.3 Hct-38.3 MCV-86 
MCH-29.7 MCHC-34.7 RDW-12.7 RDWSD-39.3 Plt ___
___ 12:40PM BLOOD Neuts-44.3 ___ Monos-7.8 Eos-1.5 
Baso-0.4 Im ___ AbsNeut-2.11 AbsLymp-2.18 AbsMono-0.37 
AbsEos-0.07 AbsBaso-0.02
___ 12:40PM BLOOD Glucose-81 UreaN-17 Creat-1.1 Na-139 
K-2.7* Cl-95* HCO3-31 AnGap-16
___ 12:40PM BLOOD ALT-15 AST-21 LD(LDH)-186 AlkPhos-44 
Amylase-59 TotBili-0.5
___ 12:40PM BLOOD Albumin-4.9 Calcium-9.8 Phos-3.8 Mg-2.3* 
Iron-127
___ 12:40PM BLOOD calTIBC-333 Ferritn-45 TRF-256
___ 12:40PM BLOOD TSH-1.1
___ 05:44PM BLOOD K-3.1*
___ 01:24PM URINE Color-Yellow Appear-Hazy Sp ___
___ 01:24PM URINE Blood-NEG Nitrite-NEG Protein-300 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.0 Leuks-TR
___ 01:24PM URINE RBC-1 WBC-7* Bacteri-FEW Yeast-NONE 
Epi-10 TransE-<1
___ 01:24PM URINE UCG-NEGATIVE

MICRO LABS:
===========
___ URINE URINE CULTURE-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 

IMAGES:
=======
CXR (___): No acute cardiopulmonary process.

DISCHARGE LABS:
===============
___ 06:10AM BLOOD WBC-5.5 RBC-3.72* Hgb-10.9* Hct-32.6* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-12.9 RDWSD-40.7 Plt ___
___ 06:10AM BLOOD Neuts-38.6 ___ Monos-6.6 Eos-1.5 
Baso-0.4 Im ___ AbsNeut-2.12# AbsLymp-2.88 AbsMono-0.36 
AbsEos-0.08 AbsBaso-0.02
___ 06:10AM BLOOD Glucose-94 UreaN-15 Creat-0.8 Na-141 
K-4.4 Cl-109* HCO3-22 AnGap-14
___ 06:10AM BLOOD Calcium-8.6 Phos-4.4 Mg-2.___ is an ___ year old female with a history of bulimia 
nervosa who was admitted from ___ for low 
potassium (2.9) and syncope. She was placed on the eating 
disorder protocol for 2 days and her potassium was repleted and 
remained stable upon discharge. She had positive orthostatics 
and this likely contributed to her syncope. She was given IVF 
and her orthostatic symptoms improved upon discharge. During her 
hospitalization, she had a downtrending ANC to 1.36K, but this 
improved upon discharge. She was started on a multivitamin.

#Bulimia Nervosa:
#Severe Malnutrition:
Patient with diagnosis of Bulimia Nervosa, likely worsened in 
the outpatient setting recently given psychosocial stressors. 
78% IBW on admission, enrolled in the Eating Disorder Protocol. 
Social work, Psychiatry, Nutrition followed. She was on the 
eating disorder protocol while she was here and passed her 
meals. She was given neutraphos, multivitamin, and thiamine 
while she was here. She will be discharged with a daily 
multivitamin. Her weight on discharge is 46.2 kg (~80% of her 
IBW). She has a planned intake appointment at ___ on ___ 
for further management of her eating disorder.

#Syncope:
Reported syncopal event at home, likely in the setting of 
orthostasis from hypovolemia in the setting of laxative abuse. 
Other etiologies such as structural cardiac v. neurologic less 
likely in setting of patients age and presentation. No e/o 
injury on physical examination. No reported head strike. AOx3 
without focal neurologic deficits. Still orthostatic by HR 
criteria this morning with symptoms of lightheadedness. No 
significant events on telemetry. Her symptoms improved with IVF, 
but she continued to have a heart rate response with orthostatic 
vitals on discharge (this may persist for > 1 week).

#Leukopenia:
ANC 1.36k on ___. Likely secondary to eating disorder. Improved 
to 2.12k on ___.

#Hypokelamia:
Potassium was 2.9 on admission, likely in setting of reported 
laxative abuse at home, GI losses. Improved with repletion and 
4.4 upon discharge.

TRANSITIONAL ISSUES:
====================
-New medications: Multivitamin daily
-She will continue treatment of her bulimia nervosa at ___ 
with intake appointment at 430pm day of discharge ___ and 
follow-up with repeat labs at ___.
-Weight on discharge is 46.2 kg (80.9% of her IBW).
-Risk of osteoporosis: Please check a vitamin D level and 
consider vitamin D and calcium supplementation
-Labs: Her last potassium was 4.4 and her last ANC was 2.12. 
Please check a cbc and a chem-10 within a week to monitor

# CODE: Full
# CONTACT: ___ (mother) ___, ___ 
(father) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
==================
Bulimia nervosa
Hypokalemia
Syncope

Secondary diagnosis:
====================
Leukopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

You were admitted for low potassium and lightheadedness that was 
thought to be due to your bulimia. You were given potassium 
supplements and fluid and your labs and symptoms improved. We 
started you on a multivitamin. You had low white blood cell 
counts at one point, but these improved upon discharge. Please 
follow-up with your primary care physician as well as ___ 
upon discharge for further treatment of your eating disorder. 
Please get lab draws at your ___ clinic to make sure your 
blood counts and potassium are alright.

It was a pleasure caring for you,

-___ medical care team
 
Followup Instructions:
___